US05650422
4-Methylsaccharin prepared in (b) (500 mg; 2.54 mmol) was dissolved in 2.53 ml of warm ethanol (steam bath). Once a homogeneous solution was achieved, formalin (37% in methanol; 1.76 ml excess) was added dropwise. The solution was allowed to cool to room temperature and then chilled to 0° C. for 4 days. The resulting solid was collected and air-dried to afford 476 mg (82%) of 2-hydroxymethyl-4-methylsaccharin, mp 196°-198° C. 1H nmr (300 MHz, CDCl3): 7.767 (1H, t, J=6.75 Hz); 7.732 (1H, d, J=7.72 Hz); 7.600 (1H, d, J=6.64 Hz); 5.361 (2H, d, J-8.00 Hz); 3.296 (1H, t, J=8.16 Hz); 2.793 (3H, s). IR (KBr, cm1): 3505 (s); 3070 (w); 1735 (s); 1580 (m).

reactant | 4-Methylsaccharin | CC1=C2C(NS(=O)(=O)C2=CC=C1)=O | C8H7NO3S
reactant | formalin | 1.76 ml | C=O | CH2O
solvent | ethanol | 2.53 ml | C(C)O | C2H6O
product | 2-hydroxymethyl-4-methylsaccharin | 476 mg, 82% | OCN1S(=O)(=O)C2=CC=CC(=C2C1=O)C | C9H9NO4S
